US04172198
A mixture of ethyl 2-(4-oxo-6-methyl-4H-pyran-3-yloxy)acetate (6.36 g) and conc. ammonia (30 ml) was heated at 120° C. for 10 hours. The reaction mixture was concentrated, and water (50 ml) was added to the residue. The resultant aqueous mixture was adjusted to pH 2 to 3 with 10% hydrochloric acid. The resulting precipitates were collected by filtration and washed with wate to give crystals (4.5 g) of 2-(4-oxo-6-methyl-1,4-dihydropyridin-3-yloxy)acetic acid dihydrate, mp 235° to 236° C. (dec.).

reactant | ethyl 2-(4-oxo-6-methyl-4H-pyran-3-yloxy)acetate | 6.36 g | O=C1C(=COC(=C1)C)OCC(=O)OCC | C10H12O5
reactant | ammonia | 30 ml | N | H3N
product | 2-(4-oxo-6-methyl-1,4-dihydropyridin-3-yloxy)acetic acid dihydrate | 4.5 g | O.O.O=C1C(=CNC(=C1)C)OCC(=O)O | InChI=1S/C8H9NO4.2H2O/c1-5-2-6(10)7(3-9-5)13-4-8(11)12;;/h2-3H,4H2,1H3,(H,9,10)(H,11,12);2*1H2
